US04427589
9-Chloro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one
A mixture of 2.2 g (6.8 mmol) of 9-chloro-4a,11b-dihydro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one and 10 g (110 mmol) of activated manganese dioxide in 100 mL of tetrahydrofuran was refluxed for 18 hr. The mixture was cooled, the manganese dioxide was removed by filtration over celite and the filtrate was concentrated at reduced pressure. Purification of the residue by column chromatography (silica gel 10 g; eluents, 20% ether in methylene chloride followed by 50% ethyl acetate in methylene chloride) gave pale yellow prisms, mp 226°-229°.

reactant | 9-chloro-4a,11b-dihydro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | 6.8 mmol, 2.2 g | ClC1=CC2=C(C3C(CN=C2C2=CC=CC=C2)N=CNC3=O)C=C1 | C18H14ClN3O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 110 mmol, 10 g | [O-2].[O-2].[Mn+4]
product | 9-Chloro-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | ClC1=CC2=C(C3=C(CN=C2C2=CC=CC=C2)N=CNC3=O)C=C1 | C18H12ClN3O
